US07091221B2
4.84 Grams (20 mmol) of L-histidine methyl ester dihydrochloride, 2.22 g (6.2 mmol) of disodium phosphate 12 hydrate and 0.2 g of polyoxyethylene lauryl ether (“Newcol 1100”, nonionic surfactant produced by Nippon Nyukazai Co., Ltd.) were dissolved in 10.0 ml of water to prepare a treating agent solution. A cotton cloth (200 mm×200 mm, 7.5 g) was in advance treated to be immersed in 25% aqueous sodium hydroxide solution for an hour at room temperature, washed with water and dried. This treated cotton cloth was allowed to uniformly absorb the total amount of the above treating agent solution and then air-dried for 3 hours at room temperature. The dried cloth was heat-treated for 20 minutes at 140° C. in a batch type hot air oven (“IPHH-2000”, an inert oven manufactured by Tabaiesbeck Co., Ltd.) and washed with water. It was further washed with 5% aqueous sodium bicarbonate solution and rinsed three times with water and subsequently washed with 10% aqueous citric acid solution and rinsed three times with water, and finally washed with household washing detergent solution, rinsed with water and air-dried. The identification of the L-histidine cellulose ester was conducted by the following method. A part of the cloth was cut and a solution of ninhydrin in butanol was sprayed on it. Thereafter, it was heated for 10 minutes in an oven of 110° C. to cause coloring thereby the presence of the amino acid was confirmed. Also, a part of the cloth was cut and subjected to an infrared spectroscopic analysis. As a result, there was confirmed a peak based on ester bond at 1720–1740 cm−1. Furthermore, 0.5 g of the cloth was immersed in 10 ml of water for 5 hours at room temperature and then this aqueous solution was analyzed by HPLC whereupon free L-histidine methyl ester was confirmed not to remain. As a result of determination for the amount of the L-histidine bonded, it was 0.11 mmol based on 1 g of the cloth. The degree of esterfication was 0.018. Also, the amount of citric acid was 0.08 mmol.

reactant | L-histidine methyl ester dihydrochloride | 20 mmol | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | disodium phosphate 12 hydrate | 6.2 mmol, 2.22 g | O.O.O.O.O.O.O.O.O.O.O.O.OP(=O)([O-])[O-].[Na+].[Na+]
reactant | polyoxyethylene lauryl ether | 0.2 g | C(CCCCCCCCCCC)OCCCCCCCCCCCC.O(CC[*:2])[*:1]
solvent | water | 10.0 ml | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
